US04482555
1-benzyl-3-amino-pyrazole, m.p. 57°-59° C. (4 g) was reacted with diethyl ethoxymethylenemalonate (6 g) in anhydrous ethanol (40 ml) at the reflux temperature for 3 hours. After cooling the solution was evaporated in vacuo to dryness. Crystallization obtained by dilution with hexane gave diethyl N-(1-benzyl-pyrazol-3-yl)-aminomethylenemalonate, m.p. 60°-62° C. (7.5 g), which was reacted with polyphosphoric acid (3.2 g: 1.5 g of P2O5 and 1.7 g of H3PO4) and POCl3 (13.5 g) under stirring at 120° C. for 30 minutes. After cooling the reaction mixture was diluted with ice water: neutralization with 35% NaOH gave a precipitate which was filtered and washed with water. Crystallization from methanol gave 6 g of 1-benzyl-7-oxo-1H,7H-pyrazolo[1,5-a]pyrimidine-6-carboxylic acid, ethyl ester, m.p. 172°-173° C., which was hydrolized by heating with a mixture 1:1 of 37% HCl:acetic acid (300 ml) at the reflux temperature for 4 hours. After cooling the reaction mixture was neutralized to pH=6 with 35% NaOH and the precipitate was filtered and washed with water: crystallization from isopropyl alcohol gave 9.7 g of 1-benzyl-7-oxo-1H,7H-pyrazolo[1,5-a]pyrimidine-6-carboxylic acid, m.p. 198°-199° C.

reactant | 1-benzyl-3-amino-pyrazole | C(C1=CC=CC=C1)N1N=C(C=C1)N | C10H11N3
reactant | diethyl ethoxymethylenemalonate | 6 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | diethyl N-(1-benzyl-pyrazol-3-yl)-aminomethylenemalonate | C(C1=CC=CC=C1)N1N=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC | C18H21N3O4
